US05278326
Step A: Preparation of β-oxo-δ-phenyl-benzene pentanoic acid ethyl ester
To a cooled solution (0° C.) of 3,3-diphenylpropionic acid (50.0 g, 0.220 mol) in 300 mL THF, 1,1'-carbonyldiimidazole (43.0 g, 0.265 mol) was added portionwise (exotherm to 10° C.) and stirred at 0° C. for 3 hours. After 3 hours, in a separate flask (equipped with an overhead stirrer), magnesium chloride (40.0 g, 0.418 mol) was added to a cooled solution (0° C.) of ethyl potassium malonate (60.0 g, 0.352 mol) in 400 mL acetonitrile (exotherm to 30° C.). Triethylamine (48.9 g, 0.484 mol) was then added and this mixture and the 3,3-diphenylpropionic acid mixture were separately allowed to gradually warm to room temperature and stir for 4 hours. The propionic acid mixture was then added dropwise to the malonate mixture (exotherm to 30° C.) and this reaction mixture was stirred at room temperature for 16 hours. This pale yellow heterogeneous reaction mixture was then carefully quenched with a solution of 200 g sodium bisulfate in 700 mL water. Ethyl acetate (3L) was then added to the yellow homogeneous solution, the layers were separated, and the organic layer was washed with 1L 5% NAOH solution and 1L saturated NaCl solution. The organic layer was then diluted with 1.5L hexane, dried (MgSO4), and concentrated in vacuo (30° C.) to give a yellow oil. Purification by flash chromatography (silica gel, 15% EtOAc/hexane) yielded 33.2 g (0.112 mol, 51%) of the desired product.

reactant | 3,3-diphenylpropionic acid | 0.220 mol, 50.0 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | 1,1'-carbonyldiimidazole | 0.265 mol, 43.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium chloride | 0.418 mol, 40.0 g | [Cl-].[Mg+2].[Cl-]
reactant | ethyl potassium malonate | 0.352 mol, 60.0 g | C(CC(=O)O)(=O)O.C(C)[K]
reactant | Triethylamine | 0.484 mol, 48.9 g | C(C)N(CC)CC | C6H15N
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | β-oxo-δ-phenyl-benzene pentanoic acid ethyl ester | 0.112 mol, 33.2 g, 51% | C(C)OC(CC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C19H20O3
